US07780953B2
3) tert-butyl 3-{[[(6-aminohexyl)oxy](hydroxy)phosphoryl]oxy}-2-[(tert-butoxycarbonyl)amino]propanoate
3 g of tert-butyl 15-[(tert-butoxycarbonyl)amino]-1-(9H-fluoren-9-yl)-12-hydroxy-3-oxo-2,11,13-trioxa-4-aza-12-phosphahexadecan-16-oate 12-oxide are stirred in 0.62 ml of piperidine and 3 ml of water for 12 hours at ambient temperature. The reaction medium is filtered and the crystals obtained are washed twice with 50 ml of acetonitrile and then recrystallized from 100 ml of acetonitrile.

reactant | tert-butyl 15-[(tert-butoxycarbonyl)amino]-1-(9H-fluoren-9-yl)-12-hydroxy-3-oxo-2,11,13-trioxa-4-aza-12-phosphahexadecan-16-oate 12-oxide | 3 g | C(C)(C)(C)OC(=O)NC(COP(OCCCCCCNC(OCC1C2=CC=CC=C2C=2C=CC=CC12)=O)(O)=O)C(=O)OC(C)(C)C | C33H47N2O10P
reactant | water | 3 ml | O | H2O
solvent | piperidine | 0.62 ml | N1CCCCC1 | C5H11N
product | tert-butyl 3-{[[(6-aminohexyl)oxy](hydroxy)phosphoryl]oxy}-2-[(tert-butoxycarbonyl)amino]propanoate | NCCCCCCOP(=O)(O)OCC(C(=O)OC(C)(C)C)NC(=O)OC(C)(C)C | C18H37N2O8P
